US09284331B2
Step 1: 9-(tert-butyl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione.
125-1. A mixture of 9-bromo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (2.0 g, 6.51 mmol), NiCl2*2H2O (0.43 g, 2.60 mmol) and dicyclohexylimidazolium tetrafluoroborate (0.83 g, 2.60 mmol) in THF (80 mL) was cooled to −20° C. and then treated with a 1M solution of tBuMgCl (39.0 mL, 39.0 mmol) dropwise. The mixture was allowed to slowly warm to RT, then poured onto a saturated aq. solution of NH4Cl and extracted with AcOEt. The combined org. layers were then dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography (SiO2, heptane to AcOEt to AcOEt/MeOH 95:5) afforded the title compound (370 mg). UPLC-MS: MS 285.2 (M+H+); UPLC rt 0.91 min.

reactant | 9-bromo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 6.51 mmol, 2.0 g | BrC1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C13H11BrN2O2
reactant | dicyclohexylimidazolium tetrafluoroborate | 2.60 mmol, 0.83 g | F[B-](F)(F)F.C1(CCCCC1)C1=[N+](C=CN1)C1CCCCC1
reactant | tBuMgCl | 39.0 mmol, 39.0 mL | C(C)(C)(C)[Mg]Cl
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | NiCl2 | Cl[Ni]Cl
product | 9-(tert-butyl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 370 mg | C(C)(C)(C)C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C17H20N2O2
